US04431807
2-Fluoro-4-nitroanisole (IX)
To a cold (-2°), stirred solution of 285 g. (2.26 mol) of 2-fluoroanisole in 1.1 L of acetic anhydride was added, dropwise, 114 mL of fuming nitric acid (sp. gr. 1.59) at such a rate that the reaction temperature remained between -2° and 0°. The reaction mixture was stirred for 5 hours at this temperature then poured into 4.0 L of water. The suspension was stirred for 1.5 hours, stored for 15 hours, then extracted with methylene chloride (2×1.0 L). The combined extracts were washed with water (2×500 mL), dried over anhydrous magnesium sulfate, then concentrated in vacuo (475 g.). Crystallization from ethanol gave 147.4 g. (38%) of material suitable for further transformation. Additional material (34.5 g.) was obtained from three scouting runs.

reactant | 2-fluoroanisole | 2.26 mol | FC1=C(C=CC=C1)OC | C7H7FO
reactant | nitric acid | 114 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | 4.0 L | O | H2O
solvent | acetic anhydride | 1.1 L | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Fluoro-4-nitroanisole | FC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6FNO3
